US05721245
2.4 g of methanesulfonic anhydride and 2 ml of triethylamine were added to a stirred solution of 2.01 g of 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-methanol in 40 ml of dichloromethane under a nitrogen atmosphere. After 18 hours, the mixture was washed with saturated sodium bicarbonate solution, dried and evaporated to an oil. Then, 1.8 g of this oil were dissolved in 10 ml of isopropanol and 5 ml of 33% aqueous ammonia and the mixture was heated to 80° C. for 10 hours. The solvent was removed under reduced pressure and the residue was partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic phase was dried and evaporated to give 1.3 g of 8-aminomethyl-6,7,8,9-tetrahydropyrido[1,2-a]indole of melting point 85°-90° C.

reactant | methanesulfonic anhydride | 2.4 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | 6,7,8,9-tetrahydropyrido[1,2-a]indole-8-methanol | 2.01 g | C1=C2C=C3N(C2=CC=C1)CCC(C3)CO | C13H15NO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 8-aminomethyl-6,7,8,9-tetrahydropyrido[1,2-a]indole | 1.3 g | NCC1CC=2N(C3=CC=CC=C3C2)CC1 | C13H16N2
